* SPDX-License-Identifier: Apache-2.0
* Compact dynamic CML-to-CMOS latch for a sub-400 ps sampler hold interval.
.subckt cml_to_cmos INP INN SENSE_CLK REGEN_CLK REGEN_CLKB CAPTURE_CLK CAPTURE_CLKB VDD VSS OUTP OUTN SENSE_BOOST_CLK
* Precharge the regenerative and input nodes while SENSE_CLK is low.
XPREP XP SENSE_CLK VDD VDD pfet_03v3 w=8u l=0.28u m=10
XPREN XN SENSE_CLK VDD VDD pfet_03v3 w=8u l=0.28u m=10
XEQUAL XP SENSE_CLK XN VDD pfet_03v3 w=8u l=0.28u m=8
XPREIP NIP SENSE_CLK VDD VDD pfet_03v3 w=8u l=0.28u m=4
XPREIN NIN SENSE_CLK VDD VDD pfet_03v3 w=8u l=0.28u m=4

* The input pair selects an intermediate node; the cross-coupled devices then
* regenerate that small timing difference on XP/XN.
XIP NIP INP NTAIL VSS nfet_03v3 w=8u l=0.28u m=12
XIN NIN INN NTAIL VSS nfet_03v3 w=8u l=0.28u m=12
XTAIL NTAIL SENSE_CLK VSS VSS nfet_03v3 w=10u l=0.28u m=5
XTAILBOOST NTAIL SENSE_BOOST_CLK VSS VSS nfet_03v3 w=10u l=0.28u m=24
XRNP XP XN NIP VSS nfet_03v3 w=8u l=0.28u m=12
XRNN XN XP NIN VSS nfet_03v3 w=8u l=0.28u m=12
XRPP XP XN VDD VDD pfet_03v3 w=8u l=0.28u m=2
XRPN XN XP VDD VDD pfet_03v3 w=8u l=0.28u m=2

* Small local inverters restore the dynamic nodes without making the large
* capture devices part of the StrongARM load.  Cross-feeding their outputs
* preserves H=1 for INP>INN.
XPD DP XP VDD VDD pfet_03v3 w=8u l=0.28u m=4
XND DP XP VSS VSS nfet_03v3 w=8u l=0.28u m=2
XPN DN XN VDD VDD pfet_03v3 w=8u l=0.28u m=4
XNN DN XN VSS VSS nfet_03v3 w=8u l=0.28u m=2

* DP/DN are active-high set/reset pulses.  Strong pull-down devices overwrite
* a weaker cross-coupled inverter pair; with both pulses low the pair holds.
XHPF H HB VDD VDD pfet_03v3 w=8u l=0.28u m=4
XHNF H HB VSS VSS nfet_03v3 w=8u l=0.28u m=1
XHNR H DP VSS VSS nfet_03v3 w=8u l=0.28u m=8
XBPF HB H VDD VDD pfet_03v3 w=8u l=0.28u m=4
XBNF HB H VSS VSS nfet_03v3 w=8u l=0.28u m=1
XBNR HB DN VSS VSS nfet_03v3 w=8u l=0.28u m=8
* A selected low dynamic node also drives the corresponding held node high.
* These devices are off while XP/XN precharge and avoid waiting for the weak
* cross-coupled feedback PMOS to slew the full extracted held-node load.
XHUP H XN VDD VDD pfet_03v3 w=8u l=0.28u m=4
XBUP HB XP VDD VDD pfet_03v3 w=8u l=0.28u m=4

* H is the complement of the selected data and HB is the true value.  Each
* single-stage output inverter and active pull-down therefore stays on its
* own physical side; only the smaller pull-up assist crosses the center.
XOPP OUTP H VDD VDD pfet_03v3 w=8u l=0.28u m=3
XOPN OUTP H VSS VSS nfet_03v3 w=8u l=0.28u m=4
XONP OUTN HB VDD VDD pfet_03v3 w=8u l=0.28u m=3
XONN OUTN HB VSS VSS nfet_03v3 w=8u l=0.28u m=4
.ends cml_to_cmos
